US07705025B2
(4-Benzofuran-2-yl-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone
The title compound is prepared in a manner substantially analogous to Procedure Q starting from 2-Benzofuran boronic acid and 4-(2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl bromide to give 52 mg (47%). MS (ES+) 375.2

reactant | 2-Benzofuran boronic acid | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | 4-(2-Pyrrolidin-1-ylmethyl-pyrrolidine-1-carbonyl)-phenyl bromide | N1(CCCC1)CC1N(CCC1)C(=O)C1=CC=C(C=C1)Br | C16H21BrN2O
product | (4-Benzofuran-2-yl-phenyl)-((S)-2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | O1C(=CC=C2C1=CC=C2)C2=C(C=CC=C2)C(=O)N2[C@@H](CCC2)CN2CCCC2 | C24H26N2O2
